US07332508B2
1-Isopropyl-4-[5-(4-methoxyphenyl)[1,2,4]oxadiazol-3-yl]piperidine, Hydrochloride
The title compound was prepared by a similar procedure to that described in Example 56, starting from 1-isopropyl-N-hydroxypiperidine-4-carboxamidine and 4-methoxybenzoyl chloride.

reactant | 1-isopropyl-N-hydroxypiperidine-4-carboxamidine | C(C)(C)N1CCC(CC1)C(=N)NO | C9H19N3O
reactant | 4-methoxybenzoyl chloride | COC1=CC=C(C(=O)Cl)C=C1 | C8H7ClO2
product | 1-Isopropyl-4-[5-(4-methoxyphenyl)[1,2,4]oxadiazol-3-yl]piperidine, Hydrochloride | Cl.C(C)(C)N1CCC(CC1)C1=NOC(=N1)C1=CC=C(C=C1)OC | InChI=1S/C17H23N3O2.ClH/c1-12(2)20-10-8-13(9-11-20)16-18-17(22-19-16)14-4-6-15(21-3)7-5-14;/h4-7,12-13H,8-11H2,1-3H3;1H
